US04609670
To a solution of 10.6 g (0.05 mol) of 1-bromo-2-(4-methylphenyl)-2-oxoethane in 150 ml of diethyl ether was added 4.18 g (0.051 mol) of 1-methylimidazole (Aldrich Chemical Company, Milwaukee, Wis.). The reaction mixture was stirred for approximately 3 hours at room temperature and the precipitated solid was collected by filtration. The resulting hygroscopic solid was recrystallized from methanol/ethyl acetate to afford 4.82 g of 1-methyl-3-[2-(4-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide as a solid. A second crop was obtained from the filtrate to provide an additional 5.8 g of product. (72% yield) mp=148°-151° C.

reactant | 1-bromo-2-(4-methylphenyl)-2-oxoethane | 0.05 mol, 10.6 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 1-methylimidazole | 0.051 mol, 4.18 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1-methyl-3-[2-(4-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide | 4.82 g | [Br-].C[NH+]1CN(C=C1)CC(=O)C1=CC=C(C=C1)C | InChI=1S/C13H16N2O.BrH/c1-11-3-5-12(6-4-11)13(16)9-15-8-7-14(2)10-15;/h3-8H,9-10H2,1-2H3;1H
